US07488735B2
Preparation of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-2,2-dithien-2-ylacetamide Example 17
2,2-dithien-2-ylacetic acid was produced by hydrolysis of 2,2-dithien-2-ylacetic acid methyl ester, previously prepared as described in F. Leonard and 1. Ehranthal, J. Am. Chem. Soc, (1951), Vol 73, pag 2216. 1.2 g (0.0054 mol) of 2,2-dithien-2-ylacetic acid were dissolved in 25 ml of THF. To this solution were added 0.96 g (0.00594 mol) of 1,1′-carbonyldiimidazole and the mixture was refluxed for an hour. The reaction was monitored by TLC following the formation of the imidazolide. When the reaction was completed 0.75 g (0.00594 mol) of (3R)-aminoquinuclidine were added. The reaction mixture was refluxed for 16 h, cooled, diluted with ether and washed with water. The organic layer was extracted with HCl 2N, the acid solution basified with K2CO3 and extracted with CHCl3. The organic phase was dried over Na2SO4 and the solvent was evaporated to obtain 0.60 g of an oil which was purified by column chromatography (silica gel, CHCl3:MeOH:NH4OH 90:10:1 as eluent). Appropriate fractions were combined and evaporated to give 0.31 g of the title product (17.3%).

reactant | 2,2-dithien-2-ylacetic acid | 0.0054 mol, 1.2 g | S1C(=CC=C1)C(C(=O)O)C=1SC=CC1 | C10H8O2S2
reactant | 1,1′-carbonyldiimidazole | 0.00594 mol, 0.96 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | imidazolide | [N-]1C=NC=C1
reactant | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-2,2-dithien-2-ylacetamide | 0.60 g | N12C[C@@H](C(CC1)CC2)NC(C(C=2SC=CC2)C=2SC=CC2)=O | C17H20N2OS2
